### PR TITLE
feat: prove Jacobi identity (Blueprint Lemma 6.41)

### LINKED ISSUE #264: Jacobi identity
$H_2 + H_4 = H_3$. Note that Serre derivative of $H_2, H_3, H_4$ (e.g. PR #262) depends on it.

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Proves the Jacobi identity `H₂ + H₄ = H₃` (equivalently `Θ₂⁴ + Θ₄⁴ = Θ₃⁴`) from Blueprint Lemma 6.41.

Closes #264

## Approach

Following the blueprint proof strategy:

1. **Define helper functions**: `jacobi_g := H₂ + H₄ - H₃` and `jacobi_f := jacobi_g²`
2. **Prove S/T transformation rules**: Show `g|[2]S = -g` and `g|[2]T = -g` using existing H₂/H₃/H₄ slash action lemmas
3. **Prove SL₂(ℤ) invariance**: From S/T rules, `f|[4]γ = f` for all `γ ∈ SL₂(ℤ)` (uses `slashaction_generators_SL2Z`)
4. **Construct ModularForm**: Build `jacobi_f_MF : ModularForm Γ(1) 4` with holomorphicity and boundedness at cusps
5. **Prove cusp form property**: Show `jacobi_f → 0` at `i∞` using `H₂ → 0`, `H₃ → 1`, `H₄ → 1`
6. **Apply dimension vanishing**: `dim S₄(Γ₁) = 0` implies `jacobi_f_MF = 0`
7. **Conclude**: From `g² = 0`, get `g = 0`, hence `H₂ + H₄ = H₃`

## File structure

The proof is self-contained in **JacobiTheta.lean**.

### JacobiTheta.lean
- `jacobi_g`, `jacobi_f` definitions
- `jacobi_g_S_action`, `jacobi_g_T_action` (weight 2 slash actions)
- `jacobi_f_S_action`, `jacobi_f_T_action` (weight 4 slash actions)
- `jacobi_f_SL2Z_invariant`, `jacobi_f_SIF`, `jacobi_f_MF`
- `jacobi_g_tendsto_atImInfty`, `jacobi_f_tendsto_atImInfty`
- `isBoundedAtImInfty_jacobi_f`, `isBoundedAtImInfty_jacobi_f_slash`
- `jacobi_f_MF_IsCuspForm` (uses `IsZeroAtImInfty.cuspFunction_apply_zero`)
- `jacobi_f_MF_eq_zero`, `jacobi_f_eq_zero`, `jacobi_g_eq_zero`
- `jacobi_identity : H₂ + H₄ = H₃`

## Test plan

- [x] `lake build SpherePacking.ModularForms.JacobiTheta` passes
- [x] Only expected sorry warnings (unrelated files)

### CODE REVIEW

**Comment by cameronfreer** [comment]
awaiting-review

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 1]
```diff
@@ -556,10 +556,129 @@ noncomputable def H₄_MF : ModularForm (Γ 2) 2 := {
...
+/-- jacobi_f is bounded at i∞ (in fact tends to 0) -/
+lemma isBoundedAtImInfty_jacobi_f : IsBoundedAtImInfty jacobi_f := by
+  -- jacobi_f → 0 at i∞, so it's certainly bounded
+  rw [isBoundedAtImInfty_iff]
+  use 1, 1
+  intro z hz
+  -- For large enough imaginary part, jacobi_f z is small
+  -- This follows from jacobi_f_tendsto_atImInfty (proved in AtImInfty.lean)
+  -- For now we use sorry as the tendsto lemma is in AtImInfty
+  sorry
```
Comment (seewoo5) [inline SpherePacking/ModularForms/JacobiTheta.lean]: Will this be proved in another PR or here? Since we already have `jacobi_f_tendsto_atImInfty` as you said this may not be hard to prove?

File: SpherePacking/ModularForms/AtImInfty.lean [hunk 2]
```diff
@@ -181,3 +183,52 @@ theorem H₃_tendsto_atImInfty : Tendsto H₃ atImInfty (𝓝 1) := by
...
+theorem jacobi_f_eq_zero : jacobi_f = 0 :=
+  congr_arg (·.toFun) jacobi_f_MF_eq_zero
+
+/-- jacobi_g = 0 as a function (from g² = 0) -/
+theorem jacobi_g_eq_zero : jacobi_g = 0 := by
+  ext z
+  simpa [jacobi_f] using congr_fun jacobi_f_eq_zero z
+
+/-- Jacobi identity proof: H₂ + H₄ = H₃ -/
+theorem jacobi_identity_proof : H₂ + H₄ = H₃ := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/AtImInfty.lean]: This overlaps with `jacobi_identity` of `JacobiTheta.lean`. I think we can simply remove this and merge with that one.

File: SpherePacking/ModularForms/JacobiTheta.lean (hunk 1 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/JacobiTheta.lean]: Thanks, now it's proved, but in `AtImInfty.lean` (along with `jacobi_f_MF` and supporting lemmas) to resolve an import cycle.

File: SpherePacking/ModularForms/AtImInfty.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/AtImInfty.lean]: Thanks -- I've merged them, leaving just a single pointfree version, though it's now in `ThetaDerivIdentities.lean` because of the dependencies needed. Please let me know if you see a better way to structure these files.

```
  JacobiTheta.lean
    ├─ jacobi_f, jacobi_g, jacobi_f_SIF, jacobi_f_SL2Z_invariant
    └─ jacobi_f_SIF_MDifferentiable
         ↓
  AtImInfty.lean
    ├─ jacobi_g_tendsto_atImInfty, jacobi_f_tendsto_atImInfty
    ├─ isBoundedAtImInfty_jacobi_f
    ├─ jacobi_f_slash_eq, isBoundedAtImInfty_jacobi_f_slash
    ├─ jacobi_f_MF
    ├─ jacobi_f_MF_IsCuspForm → jacobi_f_MF_eq_zero
    └─ jacobi_f_eq_zero → jacobi_g_eq_zero
         ↓
  ThetaDerivIdentities.lean
    └─ jacobi_identity : H₂ + H₄ = H₃
```

Comment (seewoo5) [reply SpherePacking/ModularForms/AtImInfty.lean]: In my opinion, I think we can move everything in `SpherePacking/ModularForms/AtImInfty.lean` and `jacobi_identity` in `ThetaDerivIdentities` to `JacobiTheta.lean`. For now, there's only `AtImInfty` lemmas on theta functions, not Eisenstein series or something else (also <200 lines, which seems fine for me). If we simply put in `JacobiTheta.lean` then there should be no issue with import cycles. I hope the only goal of `ThetaDerivIdenties.lean` is to prove serre derivatives of $H_2, H_3, H_4$, by using $f_2, f_3, f_4$ but not $f, g$ ($f, g$ will be in `JacobiTheta.lean`).

File: SpherePacking/ModularForms/JacobiTheta.lean (hunk 1 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/JacobiTheta.lean]: (see other comment)

File: SpherePacking/ModularForms/AtImInfty.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/AtImInfty.lean]: Sounds good -- see 9db5fbb13a1ef95a006daa722951df683f24958b. (Also golfed a bit more.)

File: SpherePacking/ModularForms/JacobiTheta.lean [hunk 3]
```diff
@@ -556,11 +559,325 @@ noncomputable def H₄_MF : ModularForm (Γ 2) 2 := {
...
+asymptotics (atImInfty) is in AtImInfty.lean to avoid circular imports.
+-/
+
+section JacobiIdentity
+
+/-- The difference g := H₂ + H₄ - H₃ -/
+noncomputable def jacobi_g : ℍ → ℂ := fun z => H₂ z + H₄ z - H₃ z
+
+/-- The squared difference f := g² -/
+noncomputable def jacobi_f : ℍ → ℂ := fun z => (jacobi_g z) ^ 2
```
Comment (seewoo5) [inline SpherePacking/ModularForms/JacobiTheta.lean]:
```suggestion
noncomputable def jacobi_g : ℍ → ℂ := H₂ + H₄ - H₃

/-- The squared difference f := g² -/
noncomputable def jacobi_f : ℍ → ℂ := jacobi_g ^ 2
```
Again point-free version?

**Review by seewoo5 — COMMENTED** [review]
One last comment, everything else seems good!

File: SpherePacking/ModularForms/JacobiTheta.lean (hunk 3 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/JacobiTheta.lean]: Sounds good, thanks. I also updated the PR description to match the new file organization.

**Review by seewoo5 — APPROVED** [review]
